US08980942B2
THC N-(2-nitrophenylsulfenyl)-β-alaninate (35.8 mg, 0.0665 mmol) was dissolved at ambient temperature in dry dichloromethane containing 10% (v/v) of thiophenol and 1.5% (v/v) of TFA (150 μL). After 10 min the mixture was quenched by addition of 180 μL 3% triethylamine in DCM (at 0° C.). The solution of crude product was chromatographed directly on silica gel with dichloromethane-methanol (gradient 1:0, 30:1, 20:1, 10:1, 7:1). The combined fractions containing the product were diluted with chloroform, concentrated at 25° C. to ˜3 mL, diluted with chloroform and concentrated again to ˜0.5 mL. The solution of product was diluted with chloroform again (˜5 mL) and concentrated to dryness. The remaining oil was immediately dissolved in chloroform, concentrated to dryness (11.47 mg, 45%), and immediately dissolved in chloroform to afford a stock solution of THC β-alaninate (ALL00133) stored at −20° C.

reactant | THC N-(2-nitrophenylsulfenyl)-β-alaninate | 0.0665 mmol, 35.8 mg | CCCCCC=1C=C(C2=C(C1)OC([C@H]3[C@H]2C=C(CC3)C)(C)C)O.[N+](=O)([O-])C1=C(C=CC=C1)SNCCC(=O)[O-]
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | thiophenol | C1(=CC=CC=C1)S | C6H6S
solvent | TFA | 150 μL | C(=O)(C(F)(F)F)O | C2HF3O2
product | THC β-alaninate | CCCCCC=1C=C(C2=C(C1)OC([C@H]3[C@H]2C=C(CC3)C)(C)C)O.NCCC(=O)[O-] | InChI=1S/C21H30O2.C3H7NO2/c1-5-6-7-8-15-12-18(22)20-16-11-14(2)9-10-17(16)21(3,4)23-19(20)13-15;4-2-1-3(5)6/h11-13,16-17,22H,5-10H2,1-4H3;1-2,4H2,(H,5,6)/p-1/t16-,17-;/m1./s1
